US04490370
A solution of 570 mg of diphenylmethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate tosylate in 30 ml of ethylacetate containing 10 ml of aqueous sodium bicarbonate was stirred for five minutes and then concentrated to dryness to give diphenylmethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate as a white foam. The foam was dissolved in 20 ml of acetonitrile and added in one portion to a stirred solution of 301 mg of D-N-tert.-butoxycarbonyl-2-naphthylglycine in 20 ml of acetonitrile containing 207 mg of N,N1 -dicylcohexylcarbodiimide and 135 mg of hydroxybenzotriazole. The reaction mixture was stirred at 25° C. for four hours. The mixture was poured into 100 ml of ethyl acetate and the solution was washed once with 50 ml of aqueous sodium bicarbonate, once with 50 ml of 1N hydrochloric acid, once with water, dried, and the solvent was removed by evaporation under reduced pressure to give diphenylmethyl D-7-(N-tert.-butoxycarbonyl-2-naphthylglycylamido)-3-methoxymethyl-3-cephem-4-carboxylate as a white foam. The foam was dissolved in 2 ml of triethylsilane and 5 ml of trifluoroacetic acid and the solution was stirred at 25° C. for nine minutes. Removal of the solvent by evaporation under reduced pressure provided 260 mg of D-7-(2-naphthylglycylamido)-3-methoxymethyl-3-cephem-4-carboxylic acid trifluoroacetate salt.

reactant | diphenylmethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate tosylate | 570 mg | S(=O)(=O)(O)C1=CC=C(C)C=C1.NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
product | diphenylmethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H22N2O4S
